US05508317
40 g (1.0 mol) of sodium hydroxide are dissolved in 100 g of water and 200 g of ice in a 1-liter reactor having a stirrer and a cooling system. The sodium hydroxide solution is cooled to 10° C., and 105.1 g (1.0 mol) of aminoacetaldehyde dimethylacetal and 10 mg of the inhibitor 4-hydroxy-2,2,6,6-tetramethylpiperidin-1-oxide are added. 99.5 g (1.1 mol) of acrylic acid chloride are slowly added to that solution at 10° C. over a period of 2 hours. The pH value drops slowly and ultimately is adjusted to 7. According to GC, amine is no longer present. The reaction mixture is saturated with sodium chloride and extracted three times with 200 ml of tert-butyl methyl ether. The organic phase is dried, filtered and concentrated using a rotary evaporator. The resulting oil is extracted three times with petroleum ether and then dried again using a rotary evaporator. 130 g of acrylamidoacetaldehyde dimethylacetal (81% of theory) are obtained in the form of an oil; the product is 99% according to GC.

reactant | sodium hydroxide | 1.0 mol, 40 g | [OH-].[Na+]
reactant | aminoacetaldehyde dimethylacetal | 1.0 mol, 105.1 g | COC(CN)OC | C4H11NO2
reactant | acrylic acid chloride | 1.1 mol, 99.5 g | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 g | O | H2O
catalyst | 4-hydroxy-2,2,6,6-tetramethylpiperidin-1-oxide | 10 mg | OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C9H19NO2
product | acrylamidoacetaldehyde dimethylacetal | 130 g, 81% | COC(CNC(C=C)=O)OC | C7H13NO3
